US07723333B2
2-ter-Butyl-4-{[1-(5-chloropyridin-2-yl)piperidin-4-yl]amino}-5-phenylisothiazol-3(2H)-one 1,1-dioxide
2-tert-Butyl-4-chloro-5-phenylisothiazol-3(2H)-one 1,1-dioxide (0.175 g, 0.58 mmol), 1-(5-chloropyridin-2-yl)piperidin-4-amine dihydrochloride (0.196 g, 0.69 mmol) and TEA (0.23 g, 2.31 mmol) was dissolved in dry DMF (3 ml) and heated in a microwave reactor at 130° C. for 30 mins. The reaction mixture was purified by preparative HPLC to yield the title compound (0.124 g, 45%). 1H NMR (500 MHz, CDCl3): δ 8.06-8.02 (m, 1H), 7.55-7.49 (m, 2H), 7.47-7.41 (m, 3H), 7.39-7.33 (m, 1H), 6.52-6.45 (m, 1H), 5.24-5.14 (m, 1H), 4.02-3.93 (m, 1H), 3.18-3.06 (m, 1H), 2.49-2.39 (m, 2H), 1.78-1.66 (m, 2H), 1.72 (s, 9H), 1.39-1.28 (m, 2H); 13C NMR (125 MHz, CDCl3): δ 159.8, 157.4, 146.3, 137.5, 134.1, 131.9, 130.2, 128.9, 125.3, 120.5, 108.2, 107.3, 61.9, 50.5, 44.3, 32.0, 27.8; Mass Spectrum: M−H+ 475.

reactant | 2-tert-Butyl-4-chloro-5-phenylisothiazol-3(2H)-one 1,1-dioxide | 0.58 mmol, 0.175 g | C(C)(C)(C)N1S(C(=C(C1=O)Cl)C1=CC=CC=C1)(=O)=O | C13H14ClNO3S
reactant | 1-(5-chloropyridin-2-yl)piperidin-4-amine dihydrochloride | 0.69 mmol, 0.196 g | Cl.Cl.ClC=1C=CC(=NC1)N1CCC(CC1)N
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 2-ter-Butyl-4-{[1-(5-chloropyridin-2-yl)piperidin-4-yl]amino}-5-phenylisothiazol-3(2H)-one 1,1-dioxide | 0.124 g, 45% | C(C)(C)(C)N1S(C(=C(C1=O)NC1CCN(CC1)C1=NC=C(C=C1)Cl)C1=CC=CC=C1)(=O)=O | C23H27ClN4O3S
